US07491713B2
Step D: cis and trans-2,2,2-Trifluoro-N-(1-isobutyl-2-oxo-5-phenylpyrrolidin-3-yl)acetamide
A solution of 2,2,2-trifluoro-N-(1-isobutyl-2-oxo-5-phenyl-2,5-dihydro-1H-pyrrol-3-yl)acetamide (300 mg, 0.919 mmol) and 10% palladium on carbon (50.0 mg) in methanol (6 mL) was stirred under a hydrogen balloon. After 2 hours the reaction was filtered through a Celite plug and concentrated. The crude product was purified by chromatography (silica gel, 0 to 50% ethyl acetate in hexane gradient elution) to give the title compound as a 1.4/1 mixture of cis/trans isomers (300 mg). Careful chromatography (silica gel, 0 to 20% ethyl acetate in hexane gradient elution, then 20 to 50% ethyl acetate in hexane gradient elution) allowed for the isolation of a portion of each the cis isomer (2nd eluting, 150 mg) and the trans isomer (1st eluting, 85 mg), along with several mixed fractions. Each isomer was carried forward individually. cis 1H NMR (500 MHz, CDCl3) □ 7.42-7.35 (m, 3H), 7.26-7.24 (m, 3H), 4.60 (dd, J=9.3, 6.2 Hz, 1H), 4.53-4.48 (m, 1H), 3.48 (dd, J=13.7, 9.8 Hz, 1H), 3.21-3.16 (m, 1H), 2.46 (dd, J=13.7, 5.6 Hz, 1H), 1.88-1.72 (m, 2H), 0.81 (d, J=6.6 Hz, 3H), 0.78 (d, J=6.8 Hz, 3H); trans 1H NMR (500 MHz, CDCl3) □ 7.55 (bs, 1H), 7.42-7.38 (m, 2H), 7.36-7.33 (m, 1H), 7.13 (d, J=7.8 Hz, 1H), 4.77 (d, J=8.8 Hz, 1H), 4.57-4.52 (m, 1H), 3.54 (dd, J=13.7, 9.3 Hz, 1H), 2.68-2.65 (m, 1H), 2.58 (dd, J=13.7, 5.9 Hz, 1H), 2.48-2.41 (m, 1H), 1.96-1.88 (m, 1H), 0.90 (d, J=2.2 Hz, 3H), 0.89 (d, J=2.4 Hz, 3H).

reactant | 2,2,2-trifluoro-N-(1-isobutyl-2-oxo-5-phenyl-2,5-dihydro-1H-pyrrol-3-yl)acetamide | 0.919 mmol, 300 mg | FC(C(=O)NC=1C(N(C(C1)C1=CC=CC=C1)CC(C)C)=O)(F)F | C16H17F3N2O2
catalyst | palladium on carbon | 50.0 mg | [Pd] | Pd
solvent | methanol | 6 mL | CO | CH4O
product | trans-2,2,2-Trifluoro-N-(1-isobutyl-2-oxo-5-phenylpyrrolidin-3-yl)acetamide | FC(C(=O)N[C@@H]1C(N([C@H](C1)C1=CC=CC=C1)CC(C)C)=O)(F)F | C16H19F3N2O2
